US07750014B2
A solution of methyl [7-Chloro-5-(4-{[4-(trifluoromethyl)benzoyl]amino}benzyl)imidazo[1,2-c]-pyrimidin-8-yl]acetate (0.100 g, 0.199 mmol) in dioxane (1.00 mL) was added 6N HCl aq. (0.5 mL) and heated to 100° C. for 22 hours. After cooling to room temperature, the volatiles was removed under reduced pressure to generate a precipitate which was suspended in water, collected by suction, rinsed with water and diethyl ether, and dried under high vacuum to give [7-chloro-5-(4-{[4-(trifluoromethyl)benzoyl]amino}benzyl)imidazo[1,2-c]pyrimidin-8-yl]acetic acid as a white powder (0.020 g, 20%).

reactant | methyl [7-Chloro-5-(4-{[4-(trifluoromethyl)benzoyl]amino}benzyl)imidazo[1,2-c]-pyrimidin-8-yl]acetate | 0.199 mmol, 0.100 g | ClC1=C(C=2N(C(=N1)CC1=CC=C(C=C1)NC(C1=CC=C(C=C1)C(F)(F)F)=O)C=CN2)CC(=O)OC | C24H18ClF3N4O3
reactant | HCl | 6N, 0.5 mL | Cl | ClH
solvent | dioxane | 1.00 mL | O1CCOCC1 | C4H8O2
product | [7-chloro-5-(4-{[4-(trifluoromethyl)benzoyl]amino}benzyl)imidazo[1,2-c]pyrimidin-8-yl]acetic acid | 0.020 g, 20% | ClC1=C(C=2N(C(=N1)CC1=CC=C(C=C1)NC(C1=CC=C(C=C1)C(F)(F)F)=O)C=CN2)CC(=O)O | C23H16ClF3N4O3
